US05270339
In a similar manner as Example 62 except for using 18 ml of a solution of 1.6M n-butyllithium in hexane instead of 10 ml of the solution of 3N ethyl magnesiumbromide in THF for reacting with 3-(m-phenoxybenzylidene)-1-pyrroline, 3.2 g (yield 44%) of 2-n-butyl-3-(m-phenoxybenzylidene)-pyrrolidine was obtained.

reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | ethyl magnesiumbromide | 3N | C(C)[Mg]Br
reactant | 3-(m-phenoxybenzylidene)-1-pyrroline | O(C1=CC=CC=C1)C=1C=C(C=C2C=NCC2)C=CC1 | C17H15NO
solvent | hexane | CCCCCC | C6H14
solvent | THF | C1CCOC1 | C4H8O
product | 2-n-butyl-3-(m-phenoxybenzylidene)-pyrrolidine | 3.2 g, yield 44% | C(CCC)C1NCCC1=CC1=CC(=CC=C1)OC1=CC=CC=C1 | C21H25NO
